US07196085B2
4-Chloro-N-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]butyramide (1 g, 2.8 mmol) was added in portions at 0° C. to a stirred solution of sodium ethoxide [from sodium (0.15 g, 6.7 mmol)] in ethanol (10 ml), then the mixture was heated under reflux for 3 hours, cooled to ambient temperature and added to ice-water (50 ml). The resulting solid was collected by filtration, washed with water (10 ml) and dried in vacuo to give 4-[3-(2-oxopyrrolidin-1-yl)benzyl]-2H-phthalazin-1-one (0.77 g) as an off-white solid, m.pt. 206–207° C.; 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 2.00 (m, 2H) (—CH2CH2CH2—), 2.55 (m-partially obscured by DMSO peak, 2H) (—NCH2—), 3.75 (t, 2H) (—COCH2—), 4.3 (s, 2H) (ArCH2—), 7.05 (d, 1H) (ArH), 7.25 (t, 1H) (ArH), 7.5 (d, 1H) (ArH), 7.7 (s, 1H) (ArH), 7.75–8.0 (m, 3H) (3×ArH), 8.25 (d, 1H) (ArH); m/z (M+H)+. 320, 100% purity.

reactant | 4-Chloro-N-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]butyramide | 2.8 mmol, 1 g | ClCCCC(=O)NC1=CC(=CC=C1)CC1=NNC(C2=CC=CC=C12)=O | C19H18ClN3O2
reactant | sodium ethoxide | 6.7 mmol, 0.15 g | [O-]CC.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[3-(2-oxopyrrolidin-1-yl)benzyl]-2H-phthalazin-1-one | 0.77 g | O=C1N(CCC1)C=1C=C(CC2=NNC(C3=CC=CC=C23)=O)C=CC1 | C19H17N3O2
